US09169254B2
DMSO (0.9 ml, 12.8 mmol), a 1 N aqueous NaOH solution (1.06 ml, 1.06 mmol) and 30% aqueous hydrogen peroxide (0.72 ml, 6.40 mmol) were sequentially added to a solution of 4-amino-1-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-piperidine-4-carbonitrile (1.85 g, 5.33 mmol) in MeOH (30 ml) at 0° C., and the mixture was stirred at room temperature for 2.5 hours. A saturated Na2S2O3 solution was added to the reaction mixture, and the precipitated solid was obtained by suction filtration. The resulting solid was washed with water, dissolved in a CH2Cl2-MeOH (3:2) solution, dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was triturated with hexane:CH2Cl2=4:1 to give 4-amino-1-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-piperidine-4-carboxylic amide (1.36 g, 70%).

reactant | DMSO | 12.8 mmol, 0.9 ml | CS(=O)C | C2H6OS
reactant | NaOH | 1.06 mmol, 1 N, 1.06 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 6.40 mmol, 0.72 ml | OO | H2O2
reactant | 4-amino-1-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-piperidine-4-carbonitrile | 5.33 mmol, 1.85 g | NC1(CCN(CC1)S(=O)(=O)\C=C\C1=C(C=C(C=C1C)NC)C)C#N | C17H24N4O2S
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
product | 4-amino-1-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-piperidine-4-carboxylic amide | 1.36 g, 70% | NC1(CCN(CC1)S(=O)(=O)\C=C\C1=C(C=C(C=C1C)NC)C)C(=O)N | C17H26N4O3S
